US04507498
A mixture of 1 g (0.0052 mol) of 1-(2,4-dihydroxy-3-propylphenyl)ethanone, 2.45 g (0.0052 mol) of 4-[4-acetyl-3-[2-[2-[(methylsulfonyl)oxy]ethoxy]-ethoxy]-2-propylphenoxy]butanoic acid ethyl ester and 2.6 g (0.019 mol) of anhydrous potassium carbonate in 100 ml of anhydrous acetone and 50 ml of anhydrous dimethylformamide was stirred at reflux for 19 hours. The reaction mixture was filtered and the filtrate was concentrated in vacuo to an oil which was treated with ethyl acetate and sodium chloride solution. The organic phase was washed with 1N sodium hydroxide solution and sodium chloride solution. The yellow oil obtained on concentration of the ethyl acetate was purified by column chromatography, eluting with 5% ethyl acetate-toluene to yield 0.526 g (18% yield) of 4-[4-acetyl-3-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]-2-propylphenoxy]butanoic acid ethyl ester as a pale yellow oil.

reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 0.0052 mol, 1 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | 4-[4-acetyl-3-[2-[2-[(methylsulfonyl)oxy]ethoxy]-ethoxy]-2-propylphenoxy]butanoic acid ethyl ester | 0.0052 mol, 2.45 g | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)OCCOCCOS(=O)(=O)C)CCC)=O | C22H34O9S
reactant | potassium carbonate | 0.019 mol, 2.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-[4-acetyl-3-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]-2-propylphenoxy]butanoic acid ethyl ester | 0.526 g, 18% yield | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)OCCOCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)CCC)=O | C32H44O9
